US05131911
b/ Preparation of 4-acetoxy-1-diacetoxymethyl-3,5-dimethoxy-2-nitrobenzene
32 cm3 of 100% nitric acid are cooled to -30° C. 100 cm3 of acetic anhydride then 40 g (0.123 mole) of 4-acetoxy-1-diacetoxymethyl-3,5-dimethoxybenzene are added with stirring. The temperature is left to increase to about -15° C. After stirring at this temperature for 30 minutes, the reaction mixture is poured into iced water. After filtration, washing with water and drying under vacuum, 43.8 g of the desired product are obtained in the form of a slightly yellow powder (yield=96%).

reactant | nitric acid | 32 cm3 | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 100 cm3 | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-acetoxy-1-diacetoxymethyl-3,5-dimethoxybenzene | 0.123 mole, 40 g | C(C)(=O)OC1=C(C=C(C=C1OC)C(OC(C)=O)OC(C)=O)OC | C15H18O8
solvent | water | O | H2O
product | 4-acetoxy-1-diacetoxymethyl-3,5-dimethoxy-2-nitrobenzene | yield=96% | C(C)(=O)OC1=C(C(=C(C=C1OC)C(OC(C)=O)OC(C)=O)[N+](=O)[O-])OC | C15H17NO10
